.hdl "/usr/local/share/xyce/verilog-a/psp103/psp103.va"
.include "/usr/local/src/kestrel/sim/models/sg13g2_psp103_tt.lib"
.include "sg13lv_compat.sp"
.OPTIONS TIMEINT METHOD=GEAR RELTOL=1e-6 ABSTOL=1e-13 CHGTOL=1e-15
.param Vdd=1.2 CL=10f TR=1n H=1n
Vnw nw 0 1.2
VPC pc 0 PWL(0 0 {TR} {Vdd} {TR+H} {Vdd} {2*TR+H} 0)
VA a 0 {Vdd}
VB b 0 {Vdd}
XP1 Y a pc nw sg13_lv_pmos w=1.12u l=0.13u
XP2 Y b pc nw sg13_lv_pmos w=1.12u l=0.13u
XN1 Y a x 0 sg13_lv_nmos w=0.74u l=0.13u
XN2 x b 0 0 sg13_lv_nmos w=0.74u l=0.13u
CL Y 0 {CL}
Cx x 0 0.1f
Bp p 0 V={ -V(pc)*I(VPC) }
.tran 0.5p {2*TR+H}
.measure tran YSET  FIND V(Y) AT={TR+0.5*H}
.measure tran EDELIV INTEGRAL V(p) FROM=0 TO={TR+H}
.end
