* single-rail flying cap dump onto C2; QDEL depends on data (V_node)
.OPTIONS TIMEINT METHOD=TRAP RELTOL=1e-6 ABSTOL=1e-14 CHGTOL=1e-16
.param CL=10f CFLY=10f RON=50 TX=1n TEDGE=1p
Cfly P 0 {CFLY}
Vt P SWI 0
Bsw SWI MID I={ (max(0,min(1,(TIME-TX)/TEDGE))/RON)*(V(SWI)-V(MID)) }
Vsw MID N2 0
C2 N2 0 {CL}
.IC V(P)=0.0 V(N2)=0
.tran 0.05p 1.6n UIC
.measure tran QDEL INTEGRAL I(Vsw) FROM=1n TO=1.5n
.measure tran VN2  FIND V(N2) AT=1.5n
.end
